US07846929B2
To a solution of 1-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)ethanone (1.0 eq) dissolved in a mixture of CHCl3, 33% wt HBr and acetic acid (1:1:1) at −0° C. was added a solution of Br2 in CHCl3 (1.05 eq). Reaction mixture was stirred at −0° C. until completed, then extracted in dichloromethane with saturated bicarbonate solution one time. The organic layer is dried, filtered and concentrated to yield the crude intermediate. This intermediate is purified by flash chromatography to yield 2-bromo-1-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)ethanone.

reactant | 1-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)ethanone | 1.0 eq | ClC=1N=C(C2=C(N1)C=C(S2)C(C)=O)N2CCOCC2 | C12H12ClN3O2S
reactant | HBr | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | Br2 | BrBr | Br2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 1.05 eq | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-1-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)ethanone | BrCC(=O)C1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C12H11BrClN3O2S
